US05728904
A 600 mL, magnetically stirred, model autoclave fitted with a condenser (maintained at -10° C.), was evacuated, cooled to about -40° C., and charged with 0.6.9 g (0.036 mol) TiCl4 followed by 64 g (0.255 mol) CCl3CH2CCl3, and 102.5 g (5 mol) HF. The temperature was increased to 120° C. and maintained at that temperature for a total of 22 h. During the heating period, pressure in excess of 400 psig was periodically vented to an aqueous KOH scrubber which was attached to two -78° C. cold traps. At the end of the heating period, the remainder of the autoclave contents were slowly vented. The cold traps contained 36.1 g material which by GC analysis, contained 14.5% CF3CH2CF3 and 84.0% CF3CH2 CF2Cl, corresponding to a yield for CF3CH2CF2Cl of 69%.

reactant | CCl3CH2CCl3 | 0.255 mol, 64 g | C(Cl)(Cl)(Cl)CC(Cl)(Cl)Cl | C3H2Cl6
reactant | KOH | [OH-].[K+]
reactant | CF3CH2CF3 | C(F)(F)(F)CC(F)(F)F | C3H2F6
catalyst | TiCl4 | 0.036 mol | Cl[Ti](Cl)(Cl)Cl
product | CF3CH2CF2Cl | C(F)(F)(F)CC(F)(F)Cl | C3H2ClF5
